US05491132
N-[N-[2-(N-tert-Butoxycarbonyl-N-methylamino)ethyl]-N-methylaminocarbonyl]-L-phenylalanine benzyl ester (11 g was dissolved in a solution of 4M hydrogen chloride in ethyl acetate (200 ml) under ice-bath cooling. After being stirred at the same temperature for 30 minutes, the solution was concentrated in vacuo to give N-[N-[2-(N-methylamino)ethyl]-N-methylaminocarbonyl]-L-phenylalanine benzyl ester hydrochloride (10 g) as an oil.

reactant | N-[N-[2-(N-tert-Butoxycarbonyl-N-methylamino)ethyl]-N-methylaminocarbonyl]-L-phenylalanine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)N(C)CCN(C)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C26H35N3O5
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[N-[2-(N-methylamino)ethyl]-N-methylaminocarbonyl]-L-phenylalanine benzyl ester hydrochloride | 10 g | Cl.C(C1=CC=CC=C1)OC([C@@H](NC(=O)N(C)CCNC)CC1=CC=CC=C1)=O | InChI=1S/C21H27N3O3.ClH/c1-22-13-14-24(2)21(26)23-19(15-17-9-5-3-6-10-17)20(25)27-16-18-11-7-4-8-12-18;/h3-12,19,22H,13-16H2,1-2H3,(H,23,26);1H/t19-;/m0./s1
